US05455274
A stirred solution of 3-fluoroanisole (7.0 g, 50.3 mmol) in 50 mL of chloroform is treated with bromine (2.59 mL, 50.3 mmol) over 30 minutes at room temperature. The reaction is heated to 60° C. for 7 hours and concentrated in vacuo. The resulting material is dissolved in 10 mL of N,N-dimethylformamide and treated with copper cyanide (5.9 g, 65.39 mmol). After refluxing overnight, the reaction is partitioned between ethyl acetate and acidic ferric chloride solution (a mixture of 19.2 g of ferric chloride hexahydrate, 44.8 mL of hydrochloric acid, and 48 mL of water). The organic phase is washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The resulting material is purified by chromatography on silica gel (210 g) with 10% ethyl acetate/hexane as the eluent to afford 2-fluoro-4-methoxy-benzonitrile.

reactant | 3-fluoroanisole | 50.3 mmol, 7.0 g | FC=1C=C(C=CC1)OC | C7H7FO
reactant | bromine | 50.3 mmol, 2.59 mL | BrBr | Br2
reactant | copper cyanide | 65.39 mmol, 5.9 g | [Cu](C#N)C#N
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-fluoro-4-methoxy-benzonitrile | FC1=C(C#N)C=CC(=C1)OC | C8H6FNO
